US07592463B2
1-[(1R, 2R, 3S, 4R)-3-Methylbicyclo[2.2.1]hept-5-en-2-yl]-propan-1-one (Table 2, Entry 2):
Prepared according to general procedure A from 4-hexen-3-one (70 μL, 0.61 mmol), cyclopentadiene (75 μL, 0.91 mmol), 70% aqueous perchloric acid (10.5 μL, 0.12 mmol) and (2S, 5S)-5-Benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one (30.7 mg, 0.12 mmol) in water (203 μL) for 22 hours at 0° C. Purification by silica gel chromatography (9:1 pentane:ether) provided the title compound as a colorless oil in 89% yield (88.7 mg, 0.54 mmol); 25:1 endo:exo, endo 90% ee. Product ratios were determined by GLC analysis (150° C., 23 psi); (1R, 2R, 3S, 4R) endo isomer tr=3.7 min, and (1S, 2S, 3R, 4S) endo isomer tr=3.6 min, exo isomers tr=3.4, 3.5 min. H NMR, 13C NMR, and IR data 1 were consistent with previously reported values (Zhu et al. (1997) J. Am. Chem. Soc. 119:3507-3512; Ahrendt et al. (2000) J. Am. Chem. Soc. 122:4243-4244). [α]D=+101.7 (c=1.0, CHCl3).

reactant | 4-hexen-3-one | 0.61 mmol, 70 μL | CCC(C=CC)=O | C6H10O
reactant | cyclopentadiene | 0.91 mmol, 75 μL | C1=CC=CC1 | C5H6
reactant | perchloric acid | 0.12 mmol, 10.5 μL | Cl(=O)(=O)(=O)O | ClHO4
reactant | (2S, 5S)-5-Benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one | 0.12 mmol, 30.7 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C=1OC(=CC1)C)C)=O | C16H18N2O2
solvent | water | 203 μL | O | H2O
product | 1-[(1R, 2R, 3S, 4R)-3-Methylbicyclo[2.2.1]hept-5-en-2-yl]-propan-1-one | 89% yield | C[C@@H]1[C@H]([C@H]2C=C[C@H]1C2)C(CC)=O | C11H16O
